C1 (net246 net330) C=5.1E-11
R2 ( net284 net189)  R=6.6E3
T3 ( net189 net189 net323 vdd!)  pfet  L=0.42E-6 W=4.84E-6
T4 ( net323 net157 vdd! vdd!)  pfet  L=0.42E-6 W=4.84E-6
T5 ( net157 net157 vdd! vdd!)  pfet  L=0.42E-6 W=4.84E-6
T6 ( net17 net189 net157 vdd!)  pfet  L=0.42E-6 W=4.84E-6
T7 (net320 net82 net82 0) pfet L=3.20E-6 W=5.99E-6
C8 (net376 net365) C=7.4E-5
T9 ( net225 net225 0 0)  nfet  L=1.35E-6 W=5.16E-6
T10 ( net110 net225 0 0)  nfet  L=1.35E-6 W=5.16E-6
R11 ( net110 net353)  R=7.8E4
T12 (net164 net24 net24 0) nfet L=9.10E-6 W=1.93E-6
T13 ( vdd! vdd! 0 0)  nfet  L=3.55E-6 W=6.51E-6
T14 ( net350 vdd! 0 0)  nfet  L=3.55E-6 W=6.51E-6
R15 ( net350 net401)  R=2.4E2
R16 (net95 vdd!) R=0.4E2
C17 (net328 net326) C=8.5E-14
R18 ( net121 net295)  R=0.8E5
T19 ( net295 net289 vdd! vdd!)  pfet  L=8.25E-6 W=4.19E-6
T20 ( net257 net289 vdd! vdd!)  pfet  L=8.25E-6 W=4.19E-6
T21 ( 0 net295 net289 vdd!)  pfet  L=8.25E-6 W=4.19E-6
T22 (net382 net154 net154 0) pfet L=8.73E-6 W=2.45E-6
T23 (net377 net292 net292 0) nfet L=9.14E-6 W=7.88E-6
T24 (net100 net210 net210 0) nfet L=2.07E-6 W=1.30E-6
R25 ( net359 net344)  R=6.3E3
T26 ( net344 net98 0 0)  nfet  L=0.81E-6 W=3.26E-6
T27 ( net88 net98 0 0)  nfet  L=0.81E-6 W=3.26E-6
T28 ( vdd! net344 net98 0)  nfet  L=0.81E-6 W=3.26E-6
R29 (vdd! net260) R=3.8E3
R30 ( 0 net400)  R=5.5E4
T31 ( net400 net400 0 0)  nfet  L=1.64E-6 W=6.06E-6
T32 ( net382 net400 0 0)  nfet  L=1.64E-6 W=6.06E-6
C33 (net17 net228) C=9.6E-6
R34 ( net173 net162)  R=6.3E4
T35 ( net162 net162 0 0)  nfet  L=1.46E-6 W=4.66E-6
T36 ( net297 net162 0 0)  nfet  L=1.46E-6 W=4.66E-6
C37 (net132 net126) C=2.4E-9
R38 (net152 net307) R=3.1E2
T39 (net201 net233 net233 0) pfet L=7.68E-6 W=3.04E-6
R40 ( net74 net104)  R=9.3E2
T41 ( net104 net104 net87 0)  nfet  L=4.85E-6 W=4.34E-6
T42 ( net87 net209 0 0)  nfet  L=4.85E-6 W=4.34E-6
T43 ( net209 net209 0 0)  nfet  L=4.85E-6 W=4.34E-6
T44 ( net320 net104 net209 0)  nfet  L=4.85E-6 W=4.34E-6
T45 (net137 net50 net50 0) pfet L=8.27E-6 W=9.46E-6
T46 (net119 net352 net352 0) pfet L=2.97E-6 W=2.96E-6
C47 (net302 net91) C=9.9E-14
T48 (net220 net313 net313 0) pfet L=4.03E-6 W=5.14E-6
R49 ( net305 net28)  R=6.9E6
T50 ( net28 net390 0 0)  nfet  L=4.34E-6 W=1.06E-6
T51 ( net166 net390 0 0)  nfet  L=4.34E-6 W=1.06E-6
T52 ( net256 net28 net166 0)  nfet  L=4.34E-6 W=1.06E-6
R53 (vdd! net62) R=7.5E2
R54 ( net362 net399)  R=8.8E4
T55 ( net399 net399 net341 0)  nfet  L=8.35E-6 W=2.92E-6
T56 ( net341 net116 0 0)  nfet  L=8.35E-6 W=2.92E-6
T57 ( net116 net116 0 0)  nfet  L=8.35E-6 W=2.92E-6
T58 ( net330 net399 net116 0)  nfet  L=8.35E-6 W=2.92E-6
T59 (net326 net282 net282 0) nfet L=0.43E-6 W=4.16E-6
T60 ( net33 net33 vdd! vdd!)  pfet  L=3.74E-6 W=7.16E-6
T61 ( net228 net33 vdd! vdd!)  pfet  L=3.74E-6 W=7.16E-6
R62 ( net228 vdd!)  R=3.2E4
T63 (net231 net117 net117 0) pfet L=0.97E-6 W=3.21E-6
R64 (net279 net273) R=7.1E3
T65 ( net325 net325 0 0)  nfet  L=7.80E-6 W=1.73E-6
T66 ( net10 net325 0 0)  nfet  L=7.80E-6 W=1.73E-6
R67 ( net10 0)  R=8.8E3
T68 (net319 net202 net202 0) nfet L=5.19E-6 W=1.87E-6
C69 (net136 net255) C=9.2E-7
R70 ( net267 net122)  R=9.8E2
T71 ( net122 net122 net216 0)  nfet  L=4.80E-6 W=8.51E-6
T72 ( net216 net364 0 0)  nfet  L=4.80E-6 W=8.51E-6
T73 ( net364 net364 0 0)  nfet  L=4.80E-6 W=8.51E-6
T74 ( net296 net122 net364 0)  nfet  L=4.80E-6 W=8.51E-6
T75 (net312 net176 net176 0) pfet L=0.86E-6 W=5.57E-6
R76 ( net352 net235)  R=1.1E6
T77 ( net235 net235 vdd! vdd!)  pfet  L=3.29E-6 W=1.04E-6
T78 ( net273 net235 vdd! vdd!)  pfet  L=3.29E-6 W=1.04E-6
C79 (net26 net80) C=4.7E-8
R80 (net334 net155) R=6.7E3
T81 (net68 net134 net134 0) nfet L=6.91E-6 W=8.00E-6
R82 (net152 net210) R=8.0E1
R83 ( net96 net259)  R=1.4E1
T84 ( net259 net259 0 0)  nfet  L=7.07E-6 W=3.33E-6
T85 ( net93 net259 0 0)  nfet  L=7.07E-6 W=3.33E-6
T86 (net217 net55 net55 0) nfet L=2.67E-6 W=4.61E-6
R87 ( 0 net369)  R=3.8E0
T88 ( net369 net369 vdd! vdd!)  pfet  L=7.80E-6 W=0.62E-6
T89 ( net230 net369 vdd! vdd!)  pfet  L=7.80E-6 W=0.62E-6
T90 (net72 net225 net225 0) nfet L=5.91E-6 W=6.28E-6
R91 ( net302 net100)  R=5.8E3
T92 ( net100 net100 net62 0)  nfet  L=3.87E-6 W=2.89E-6
T93 ( net62 net175 0 0)  nfet  L=3.87E-6 W=2.89E-6
T94 ( net175 net175 0 0)  nfet  L=3.87E-6 W=2.89E-6
T95 ( net32 net100 net175 0)  nfet  L=3.87E-6 W=2.89E-6
R96 (net206 net131) R=4.5E3
C97 (net176 net198) C=3.1E-6
C98 (net86 net283) C=5.0E-12
T99 ( net107 net107 vdd! vdd!)  pfet  L=4.14E-6 W=4.44E-6
T100 ( net240 net107 vdd! vdd!)  pfet  L=4.14E-6 W=4.44E-6
R101 ( net240 net306)  R=2.7E6
T102 (net67 net279 net279 0) pfet L=5.86E-6 W=1.67E-6
R103 (net118 net342) R=7.6E4
R104 (net244 net278) R=10.0E2
R105 (net46 net140) R=3.4E5
R106 ( net151 net312)  R=7.2E2
T107 ( net312 net312 net382 vdd!)  pfet  L=4.06E-6 W=9.48E-6
T108 ( net382 net36 vdd! vdd!)  pfet  L=4.06E-6 W=9.48E-6
T109 ( net36 net36 vdd! vdd!)  pfet  L=4.06E-6 W=9.48E-6
T110 ( net212 net312 net36 vdd!)  pfet  L=4.06E-6 W=9.48E-6
T111 (vdd! net82 net82 0) pfet L=3.25E-6 W=1.99E-6
R112 ( net16 net270)  R=4.0E3
T113 ( net270 net270 vdd! vdd!)  pfet  L=9.49E-6 W=0.55E-6
T114 ( net149 net270 vdd! vdd!)  pfet  L=9.49E-6 W=0.55E-6
R115 (net338 net125) R=1.8E5
R116 ( net84 net214)  R=6.2E3
T117 ( net214 net89 0 0)  nfet  L=9.53E-6 W=9.46E-6
T118 ( net334 net89 0 0)  nfet  L=9.53E-6 W=9.46E-6
T119 ( net366 net214 net334 0)  nfet  L=9.53E-6 W=9.46E-6
T120 (vdd! net81 net81 0) pfet L=2.88E-6 W=3.28E-6
R121 ( net392 net184)  R=8.0E2
T122 ( net184 net387 vdd! vdd!)  pfet  L=2.14E-6 W=6.96E-6
T123 ( net137 net387 vdd! vdd!)  pfet  L=2.14E-6 W=6.96E-6
T124 ( 0 net184 net387 vdd!)  pfet  L=2.14E-6 W=6.96E-6
T125 (net308 net71 net71 0) nfet L=4.08E-6 W=2.68E-6
R126 ( net19 net92)  R=3.5E4
T127 ( net92 net4 0 0)  nfet  L=1.36E-6 W=6.08E-6
T128 ( 0 net4 0 0)  nfet  L=1.36E-6 W=6.08E-6
T129 ( vdd! net92 net4 0)  nfet  L=1.36E-6 W=6.08E-6
T130 (net193 net80 net80 0) pfet L=5.49E-6 W=8.54E-6
R131 ( net385 net322)  R=0.3E1
T132 ( net322 net25 vdd! vdd!)  pfet  L=3.86E-6 W=0.71E-6
T133 ( net93 net25 vdd! vdd!)  pfet  L=3.86E-6 W=0.71E-6
T134 ( net129 net322 net93 vdd!)  pfet  L=3.86E-6 W=0.71E-6
C135 (net372 net21) C=8.9E-7
C136 (net146 net186) C=9.4E-5
R137 ( net172 net211)  R=8.1E2
T138 ( net211 net211 vdd! vdd!)  pfet  L=1.67E-6 W=9.95E-6
T139 ( net375 net211 vdd! vdd!)  pfet  L=1.67E-6 W=9.95E-6
T140 (net297 net267 net267 0) nfet L=0.71E-6 W=8.39E-6
T141 (vdd! net18 net18 0) nfet L=1.79E-6 W=4.18E-6
R142 ( net34 net58)  R=1.1E3
T143 ( net58 net58 net201 vdd!)  pfet  L=7.85E-6 W=2.99E-6
T144 ( net201 net285 vdd! vdd!)  pfet  L=7.85E-6 W=2.99E-6
T145 ( net285 net285 vdd! vdd!)  pfet  L=7.85E-6 W=2.99E-6
T146 ( net97 net58 net285 vdd!)  pfet  L=7.85E-6 W=2.99E-6
T147 (0 net125 net125 0) pfet L=8.89E-6 W=4.87E-6
R148 ( net14 net159)  R=0.3E4
T149 ( net159 net287 0 0)  nfet  L=0.11E-6 W=1.68E-6
T150 ( net99 net287 0 0)  nfet  L=0.11E-6 W=1.68E-6
T151 ( net367 net159 net99 0)  nfet  L=0.11E-6 W=1.68E-6
T152 (net376 vdd! vdd! 0) nfet L=4.64E-6 W=5.25E-6
T153 (net265 net149 net149 0) nfet L=0.10E-6 W=3.03E-6
R154 ( net255 net241)  R=1.8E2
T155 ( net241 net241 vdd! vdd!)  pfet  L=6.09E-6 W=6.25E-6
T156 ( net271 net241 vdd! vdd!)  pfet  L=6.09E-6 W=6.25E-6
R157 (net198 net105) R=3.4E5
T158 (net292 net68 net68 0) nfet L=7.08E-6 W=6.72E-6
T159 (net139 net376 net376 0) pfet L=2.70E-6 W=2.01E-6
R160 (0 net188) R=6.4E3
T161 (net386 net147 net147 0) nfet L=7.27E-6 W=8.72E-6
R162 (0 net160) R=5.4E2
R163 ( net21 net380)  R=3.1E1
T164 ( net380 net380 vdd! vdd!)  pfet  L=3.82E-6 W=2.06E-6
T165 ( net152 net380 vdd! vdd!)  pfet  L=3.82E-6 W=2.06E-6
R166 (net6 net35) R=2.6E6
R167 ( net226 net133)  R=4.7E1
T168 ( net133 net313 vdd! vdd!)  pfet  L=1.40E-6 W=9.12E-6
T169 ( net255 net313 vdd! vdd!)  pfet  L=1.40E-6 W=9.12E-6
T170 ( 0 net133 net313 vdd!)  pfet  L=1.40E-6 W=9.12E-6
T171 (net180 net56 net56 0) pfet L=2.58E-6 W=9.08E-6
R172 ( net298 net57)  R=7.1E2
T173 ( net57 net290 vdd! vdd!)  pfet  L=4.32E-6 W=8.90E-6
T174 ( net327 net290 vdd! vdd!)  pfet  L=4.32E-6 W=8.90E-6
T175 ( net336 net57 net327 vdd!)  pfet  L=4.32E-6 W=8.90E-6
T176 (net155 net148 net148 0) pfet L=0.30E-6 W=7.22E-6
R177 (net20 net5) R=3.2E3
C178 (net315 net307) C=8.9E-6
R179 ( net76 net376)  R=1.5E6
T180 ( net376 net383 vdd! vdd!)  pfet  L=0.58E-6 W=1.38E-6
T181 ( net95 net383 vdd! vdd!)  pfet  L=0.58E-6 W=1.38E-6
T182 ( 0 net376 net383 vdd!)  pfet  L=0.58E-6 W=1.38E-6
T183 (0 net103 net103 0) nfet L=0.96E-6 W=4.36E-6
R184 ( net217 net373)  R=3.8E6
T185 ( net373 net170 vdd! vdd!)  pfet  L=2.47E-6 W=9.61E-6
T186 ( net329 net170 vdd! vdd!)  pfet  L=2.47E-6 W=9.61E-6
T187 ( 0 net373 net329 vdd!)  pfet  L=2.47E-6 W=9.61E-6
C188 (net200 net59) C=1.7E-6
R189 ( net247 net301)  R=5.0E2
T190 ( net301 net368 0 0)  nfet  L=2.35E-6 W=7.73E-6
T191 ( net186 net368 0 0)  nfet  L=2.35E-6 W=7.73E-6
T192 ( net123 net301 net186 0)  nfet  L=2.35E-6 W=7.73E-6
T193 (net360 net398 net398 0) pfet L=8.72E-6 W=7.11E-6
R194 ( net5 net192)  R=3.9E6
T195 ( net192 net192 0 0)  nfet  L=1.66E-6 W=9.02E-6
T196 ( net143 net192 0 0)  nfet  L=1.66E-6 W=9.02E-6
R197 (net332 net253) R=1.1E0
R198 (0 net81) R=0.5E5
R199 ( net249 net221)  R=4.4E3
T200 ( net221 net56 vdd! vdd!)  pfet  L=9.87E-6 W=7.83E-6
T201 ( 0 net56 vdd! vdd!)  pfet  L=9.87E-6 W=7.83E-6
T202 ( 0 net221 net56 vdd!)  pfet  L=9.87E-6 W=7.83E-6
T203 (net105 net51 net51 0) pfet L=7.06E-6 W=6.30E-6
C204 (net272 net238) C=0.8E-8
T205 (net366 net318 net318 0) nfet L=4.07E-6 W=9.78E-6
R206 ( net72 net215)  R=2.1E0
T207 ( net215 net395 vdd! vdd!)  pfet  L=0.24E-6 W=1.40E-6
T208 ( net356 net395 vdd! vdd!)  pfet  L=0.24E-6 W=1.40E-6
T209 ( 0 net215 net395 vdd!)  pfet  L=0.24E-6 W=1.40E-6
T210 (net262 net372 net372 0) nfet L=0.64E-6 W=8.91E-6
R211 ( net105 net158)  R=3.2E6
T212 ( net158 net32 vdd! vdd!)  pfet  L=9.37E-6 W=8.62E-6
T213 ( net205 net32 vdd! vdd!)  pfet  L=9.37E-6 W=8.62E-6
T214 ( net385 net158 net205 vdd!)  pfet  L=9.37E-6 W=8.62E-6
T215 (net68 0 0 0) nfet L=4.90E-6 W=9.16E-6
R216 (net90 net255) R=1.5E1
R217 ( net331 net393)  R=9.0E0
T218 ( net393 net330 0 0)  nfet  L=7.83E-6 W=1.76E-6
T219 ( vdd! net330 0 0)  nfet  L=7.83E-6 W=1.76E-6
T220 ( vdd! net393 net330 0)  nfet  L=7.83E-6 W=1.76E-6
C221 (vdd! net154) C=0.6E-9
R222 ( vdd! net343)  R=8.1E3
T223 ( net343 net343 net346 0)  nfet  L=7.99E-6 W=2.12E-6
T224 ( net346 net238 0 0)  nfet  L=7.99E-6 W=2.12E-6
T225 ( net238 net238 0 0)  nfet  L=7.99E-6 W=2.12E-6
T226 ( net401 net343 net238 0)  nfet  L=7.99E-6 W=2.12E-6
T227 (vdd! vdd! vdd! 0) pfet L=9.06E-6 W=0.88E-6
R228 ( net16 net335)  R=2.6E0
T229 ( net335 net40 0 0)  nfet  L=6.84E-6 W=0.91E-6
T230 ( net84 net40 0 0)  nfet  L=6.84E-6 W=0.91E-6
T231 ( vdd! net335 net40 0)  nfet  L=6.84E-6 W=0.91E-6
T232 (net349 net377 net377 0) pfet L=3.02E-6 W=5.95E-6
R233 (net258 net272) R=9.1E5
R234 (net385 net243) R=4.0E2
R235 ( net320 net71)  R=0.5E0
T236 ( net71 net71 net265 0)  nfet  L=3.45E-6 W=4.67E-6
T237 ( net265 net307 0 0)  nfet  L=3.45E-6 W=4.67E-6
T238 ( net307 net307 0 0)  nfet  L=3.45E-6 W=4.67E-6
T239 ( vdd! net71 net307 0)  nfet  L=3.45E-6 W=4.67E-6
T240 (net177 net109 net109 0) pfet L=2.95E-6 W=4.26E-6
T241 (net139 net138 net138 0) nfet L=3.44E-6 W=7.58E-6
R242 (net96 net199) R=4.4E6
R243 ( net82 net35)  R=7.9E4
T244 ( net35 net35 net153 0)  nfet  L=0.65E-6 W=1.22E-6
T245 ( net153 net37 0 0)  nfet  L=0.65E-6 W=1.22E-6
T246 ( net37 net37 0 0)  nfet  L=0.65E-6 W=1.22E-6
T247 ( net140 net35 net37 0)  nfet  L=0.65E-6 W=1.22E-6
R248 (net59 net194) R=0.4E3
T249 (net277 net397 net397 0) nfet L=3.22E-6 W=7.45E-6
R250 ( net174 net172)  R=6.8E4
T251 ( net172 net161 0 0)  nfet  L=8.93E-6 W=2.87E-6
T252 ( net361 net161 0 0)  nfet  L=8.93E-6 W=2.87E-6
T253 ( net149 net172 net361 0)  nfet  L=8.93E-6 W=2.87E-6
R254 (net302 net48) R=1.5E4
R255 ( net169 net257)  R=5.4E4
T256 ( net257 net372 0 0)  nfet  L=8.46E-6 W=8.42E-6
T257 ( net115 net372 0 0)  nfet  L=8.46E-6 W=8.42E-6
T258 ( 0 net257 net115 0)  nfet  L=8.46E-6 W=8.42E-6
R259 (net11 0) R=5.4E4
R260 ( net207 net237)  R=6.8E1
T261 ( net237 net237 net145 0)  nfet  L=9.13E-6 W=3.00E-6
T262 ( net145 net69 0 0)  nfet  L=9.13E-6 W=3.00E-6
T263 ( net69 net69 0 0)  nfet  L=9.13E-6 W=3.00E-6
T264 ( net126 net237 net69 0)  nfet  L=9.13E-6 W=3.00E-6
T265 (net333 net321 net321 0) nfet L=8.77E-6 W=5.93E-6
R266 (net359 net60) R=1.3E1
T267 (net68 0 0 0) nfet L=3.78E-6 W=8.51E-6
R268 ( net61 net190)  R=3.2E1
T269 ( net190 net284 vdd! vdd!)  pfet  L=1.94E-6 W=7.73E-6
T270 ( net336 net284 vdd! vdd!)  pfet  L=1.94E-6 W=7.73E-6
T271 ( net348 net190 net336 vdd!)  pfet  L=1.94E-6 W=7.73E-6
T272 (net196 net303 net303 0) pfet L=2.69E-6 W=1.83E-6
T273 (net3 net266 net266 0) pfet L=6.75E-6 W=4.73E-6
R274 ( net218 net280)  R=3.9E0
T275 ( net280 net264 0 0)  nfet  L=4.30E-6 W=2.07E-6
T276 ( net140 net264 0 0)  nfet  L=4.30E-6 W=2.07E-6
T277 ( vdd! net280 net264 0)  nfet  L=4.30E-6 W=2.07E-6
C278 (net299 net246) C=3.3E-10
C279 (net188 net315) C=0.4E-5
T280 (net18 net204 net204 0) pfet L=1.08E-6 W=4.22E-6
R281 ( net167 net294)  R=2.2E1
T282 ( net294 net294 0 0)  nfet  L=3.80E-6 W=7.40E-6
T283 ( net262 net294 0 0)  nfet  L=3.80E-6 W=7.40E-6
T284 (net120 net204 net204 0) nfet L=9.41E-6 W=2.02E-6
R285 (net49 net61) R=1.0E3
T286 (net179 net2 net2 0) nfet L=7.33E-6 W=9.98E-6
T287 ( net45 net45 0 0)  nfet  L=3.08E-6 W=7.72E-6
T288 ( net131 net45 0 0)  nfet  L=3.08E-6 W=7.72E-6
R289 ( net131 net367)  R=3.3E4
C290 (0 net348) C=3.1E-7
T291 (net248 net34 net34 0) nfet L=3.92E-6 W=6.71E-6
T292 (net140 0 0 0) nfet L=5.53E-6 W=4.19E-6
C293 (net164 net197) C=0.5E-5
R294 (net298 net82) R=5.2E4
T295 (net121 net202 net202 0) pfet L=5.81E-6 W=7.99E-6
R296 (net232 net193) R=1.7E2
R297 (net247 net326) R=6.4E3
T298 (net347 net143 net143 0) nfet L=1.34E-6 W=1.19E-6
T299 (net5 0 0 0) nfet L=3.06E-6 W=2.82E-6
T300 (net13 net248 net248 0) nfet L=1.60E-6 W=1.33E-6
R301 (net144 net353) R=5.3E5
T302 (vdd! net339 net339 0) pfet L=0.17E-6 W=9.65E-6
C303 (net220 net72) C=6.5E-13
T304 (net385 net31 net31 0) pfet L=9.38E-6 W=4.87E-6
R305 (net305 net60) R=7.4E6
R306 (net136 net363) R=8.2E5
T307 (net85 vdd! vdd! 0) nfet L=3.77E-6 W=1.06E-6
R308 (net118 0) R=1.3E6
T309 (net203 net73 net73 0) pfet L=8.56E-6 W=5.05E-6
R310 (net12 vdd!) R=1.4E5
T311 (net185 net252 net252 0) nfet L=6.21E-6 W=7.34E-6
T312 (net112 net66 net66 0) pfet L=7.43E-6 W=3.15E-6
R313 (net137 net260) R=9.1E3
C314 (net258 net15) C=3.4E-14
R315 (net29 net268) R=7.8E3
T316 (net106 net212 net212 0) nfet L=9.53E-6 W=6.66E-6
T317 (net263 net222 net222 0) pfet L=8.27E-6 W=3.84E-6
R318 (net402 net55) R=0.2E3
R319 (vdd! net196) R=8.5E4
T320 (net358 net253 net253 0) nfet L=5.14E-6 W=6.01E-6
R321 (vdd! net91) R=4.9E1
C322 (net354 net378) C=3.6E-12
C323 (net251 net67) C=0.7E-9
C324 (net362 net388) C=6.2E-9
T325 (net111 net239 net239 0) nfet L=6.87E-6 W=4.88E-6
T326 (net389 net202 net202 0) nfet L=8.66E-6 W=4.49E-6
R327 (net308 0) R=0.5E5
T328 (net379 net324 net324 0) pfet L=9.88E-6 W=4.06E-6
T329 (net232 net117 net117 0) pfet L=4.36E-6 W=2.20E-6
R330 (net27 net139) R=9.3E5
T331 (net142 net347 net347 0) pfet L=1.21E-6 W=1.48E-6
C332 (0 net388) C=7.0E-6
R333 (net121 net5) R=9.7E0
T334 (net80 net392 net392 0) pfet L=8.40E-6 W=9.90E-6
T335 (vdd! net247 net247 0) nfet L=8.07E-6 W=0.94E-6
T336 (vdd! net12 net12 0) nfet L=4.81E-6 W=4.07E-6
R337 (net398 net219) R=10.0E4
C338 (0 net316) C=1.2E-5
C339 (net386 net105) C=0.7E-12
T340 (net311 net320 net320 0) pfet L=7.07E-6 W=3.40E-6
T341 (net168 net5 net5 0) nfet L=2.91E-6 W=6.51E-6
R342 (net54 vdd!) R=1.0E3
C343 (net45 net246) C=7.6E-12
C344 (net142 net324) C=9.9E-6
R345 (net244 net63) R=2.2E6
C346 (net342 net381) C=9.9E-12
C347 (net43 net149) C=3.4E-13
T348 (0 net305 net305 0) nfet L=5.87E-6 W=6.48E-6
C349 (net75 net204) C=1.5E-12
T350 (net20 0 0 0) nfet L=1.36E-6 W=8.13E-6
T351 (net114 net262 net262 0) pfet L=9.37E-6 W=3.81E-6
T352 (net176 net24 net24 0) pfet L=1.97E-6 W=2.73E-6
T353 (net95 net67 net67 0) nfet L=8.73E-6 W=5.05E-6
T354 (net220 net254 net254 0) nfet L=7.62E-6 W=9.61E-6
T355 (0 net81 net81 0) nfet L=6.19E-6 W=5.06E-6
R356 (net354 net319) R=9.4E4
T357 (net42 net42 net42 0) nfet L=3.14E-6 W=8.63E-6
T358 (net1 net46 net46 0) nfet L=4.03E-6 W=4.32E-6
T359 (net244 net309 net309 0) pfet L=9.94E-6 W=2.94E-6
T360 (vdd! net15 net15 0) nfet L=7.35E-6 W=2.29E-6
C361 (net130 net210) C=8.7E-14
C362 (net183 net147) C=4.1E-14
R363 (net374 net29) R=3.7E0
T364 (net300 net113 net113 0) pfet L=8.15E-6 W=8.54E-6
T365 (net333 net191 net191 0) pfet L=7.30E-6 W=5.66E-6
T366 (net47 0 0 0) pfet L=2.66E-6 W=2.17E-6
R367 (vdd! net9) R=7.2E5
R368 (net278 net318) R=0.8E3
R369 (net19 net193) R=3.3E2
C370 (net204 net314) C=1.3E-5
C371 (net244 net136) C=0.3E-6
C372 (net109 net246) C=7.2E-8
R373 (0 net54) R=7.7E0
T374 (net143 net114 net114 0) nfet L=8.04E-6 W=8.29E-6
T375 (net311 net210 net210 0) nfet L=9.05E-6 W=1.88E-6
T376 (vdd! net49 net49 0) pfet L=5.13E-6 W=8.49E-6
C377 (net125 net43) C=0.8E-13
C378 (net83 net297) C=0.7E-11
T379 (net118 net65 net65 0) nfet L=8.38E-6 W=2.57E-6
T380 (net64 net222 net222 0) pfet L=6.06E-6 W=2.96E-6
C381 (net397 net234) C=5.5E-7
R382 (net67 net124) R=7.9E2
C383 (net52 net349) C=3.2E-9
T384 (net19 net271 net271 0) nfet L=6.20E-6 W=7.15E-6
T385 (net138 net366 net366 0) pfet L=5.98E-6 W=8.03E-6
T386 (net12 net106 net106 0) nfet L=5.94E-6 W=3.59E-6
T387 (net317 0 0 0) nfet L=2.73E-6 W=8.57E-6
C388 (net340 net140) C=1.4E-13
R389 (net124 0) R=2.2E1
R390 (net388 net246) R=2.5E2
C391 (net114 net22) C=8.8E-9
R392 (net219 net160) R=4.9E4
T393 (net165 net16 net16 0) nfet L=7.47E-6 W=5.98E-6
C394 (0 net261) C=7.5E-12
T395 (net108 net154 net154 0) pfet L=5.64E-6 W=3.89E-6
C396 (net224 net46) C=8.7E-8
T397 (net266 net78 net78 0) nfet L=1.73E-6 W=9.47E-6
C398 (net246 0) C=4.6E-7
T399 (net146 net299 net299 0) nfet L=9.88E-6 W=8.95E-6
R400 (net109 net27) R=6.8E0
C401 (net308 net225) C=5.2E-9
T402 (net365 net203 net203 0) nfet L=8.51E-6 W=0.27E-6
T403 (net119 net129 net129 0) nfet L=8.80E-6 W=0.53E-6
T404 (net278 0 0 0) nfet L=3.94E-6 W=0.61E-6
T405 (net38 net276 net276 0) nfet L=8.69E-6 W=9.77E-6
C406 (net15 net273) C=4.1E-11
T407 (0 net225 net225 0) nfet L=5.18E-6 W=0.69E-6
R408 (net151 net239) R=5.2E6
T409 (vdd! net81 net81 0) nfet L=8.04E-6 W=7.92E-6
R410 (vdd! net299) R=6.8E2
R411 (net82 net311) R=5.3E2
T412 (net18 net39 net39 0) nfet L=8.19E-6 W=4.54E-6
R413 (net231 net269) R=4.7E2
R414 (net195 0) R=9.9E4
R415 (net394 net125) R=9.5E6
T416 (net88 net14 net14 0) pfet L=1.18E-6 W=2.30E-6
T417 (net245 net171 net171 0) nfet L=7.02E-6 W=1.30E-6
T418 (net125 net90 net90 0) nfet L=2.30E-6 W=0.83E-6
R419 (net398 net352) R=9.3E0
C420 (net260 net251) C=5.5E-6
T421 (net374 net281 net281 0) nfet L=7.06E-6 W=9.51E-6
R422 (net135 net247) R=3.6E5
T423 (0 net396 net396 0) nfet L=2.91E-6 W=9.14E-6
T424 (net271 net22 net22 0) pfet L=9.03E-6 W=3.26E-6
C425 (net281 0) C=6.0E-13
R426 (net291 net274) R=0.3E5
C427 (net377 0) C=2.0E-13
R428 (net222 net345) R=1.4E2
T429 (net177 net183 net183 0) pfet L=0.86E-6 W=6.78E-6
R430 (net199 net262) R=4.3E4
C431 (net6 net194) C=7.4E-11
T432 (net402 net360 net360 0) nfet L=7.52E-6 W=7.36E-6
T433 (0 net375 net375 0) nfet L=3.88E-6 W=0.73E-6
T434 (0 0 0 0) nfet L=9.76E-6 W=4.01E-6
T435 (net176 net117 net117 0) nfet L=2.88E-6 W=3.19E-6
T436 (net293 net378 net378 0) nfet L=6.25E-6 W=5.24E-6
R437 (net114 net250) R=2.6E5
C438 (net15 net288) C=8.0E-12
R439 (net213 net397) R=5.9E1
T440 (net277 net256 net256 0) pfet L=8.93E-6 W=1.77E-6
R441 (0 net371) R=7.5E5
C442 (net320 vdd!) C=6.3E-9
T443 (net366 net279 net279 0) pfet L=0.89E-6 W=7.46E-6
R444 (net94 net239) R=4.1E5
T445 (net200 net12 net12 0) pfet L=3.29E-6 W=6.79E-6
T446 (net46 net302 net302 0) nfet L=3.77E-6 W=8.17E-6
T447 (net351 net11 net11 0) nfet L=2.48E-6 W=4.51E-6
C448 (net199 net274) C=9.7E-10
C449 (net108 net127) C=8.2E-13
R450 (net136 net177) R=7.9E4
T451 (net1 net146 net146 0) pfet L=2.07E-6 W=3.69E-6
T452 (vdd! net18 net18 0) pfet L=1.08E-6 W=9.53E-6
C453 (net44 vdd!) C=6.0E-13
T454 (net309 net386 net386 0) nfet L=3.46E-6 W=6.10E-6
R455 (net286 net262) R=7.6E6
R456 (vdd! 0) R=6.6E5
C457 (net160 net351) C=2.6E-6
T458 (net202 net363 net363 0) nfet L=9.93E-6 W=9.46E-6
R459 (net80 net137) R=8.2E4
T460 (net210 net316 net316 0) pfet L=6.32E-6 W=0.41E-6
T461 (0 net94 net94 0) pfet L=6.31E-6 W=2.45E-6
R462 (net381 net181) R=3.8E0
T463 (net223 0 0 0) nfet L=5.38E-6 W=4.36E-6
T464 (net386 net389 net389 0) nfet L=8.11E-6 W=1.12E-6
R465 (net249 vdd!) R=8.1E5
C466 (net137 net396) C=3.4E-13
T467 (net377 net275 net275 0) pfet L=1.26E-6 W=8.34E-6
T468 (net112 net339 net339 0) nfet L=8.19E-6 W=9.34E-6
T469 (net297 net360 net360 0) pfet L=8.14E-6 W=7.53E-6
T470 (0 net75 net75 0) pfet L=9.55E-6 W=5.28E-6
T471 (net124 net67 net67 0) nfet L=3.39E-6 W=7.18E-6
T472 (net292 net128 net128 0) pfet L=5.84E-6 W=1.35E-6
R473 (net156 net130) R=3.2E4
R474 (net401 0) R=5.3E4
C475 (net177 net194) C=0.9E-12
R476 (vdd! net392) R=9.0E0
T477 (net321 net281 net281 0) nfet L=4.94E-6 W=8.39E-6
T478 (net349 net279 net279 0) pfet L=0.82E-6 W=5.90E-6
R479 (net188 net347) R=3.5E1
C480 (net231 vdd!) C=4.0E-8
T481 (net381 net60 net60 0) pfet L=2.60E-6 W=6.22E-6
R482 (net397 net60) R=0.8E6
T483 (net183 net155 net155 0) pfet L=1.58E-6 W=3.91E-6
T484 (net108 net60 net60 0) nfet L=8.45E-6 W=1.43E-6
T485 (net142 net271 net271 0) pfet L=4.88E-6 W=2.47E-6
T486 (net111 net53 net53 0) nfet L=7.58E-6 W=9.49E-6
R487 (net155 net256) R=6.2E1
C488 (net168 0) C=2.9E-9
T489 (net11 0 0 0) pfet L=8.28E-6 W=6.39E-6
C490 (net356 net245) C=5.8E-7
T491 (net17 net249 net249 0) nfet L=7.76E-6 W=2.51E-6

